US05358948
2-Methoxy-3-(4-methyl-1-piperazinyl)benzoic acid
1-(2-Methoxyphenyl)-4-methylpiperazine (10.0 g) was added in ether (20 ml) dropwise to a solution of n-butyllithium in hexane (1.6M; 36 ml) and N,N-tetramethylethylenediamine (5.6 g) under nitrogen at room temperature. The resulting suspension was stirred for 6 h and was added slowly to a mixture of solid carbon dioxide (50 g) and THF (50 ml). The mixture was allowed to warm to room temperature and was treated with water (150 ml). The aqueous solution was washed with and the filtrate was evaporated to give the title compound as a ether (2×200 ml), acidified with hydrochloric acid (2N) and evaporated. The solid was treated with methanol (150 ml), filtered white solid (15.0 g)

reactant | 1-(2-Methoxyphenyl)-4-methylpiperazine | 10.0 g | COC1=C(C=CC=C1)N1CCN(CC1)C | C12H18N2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | carbon dioxide | 50 g | C(=O)=O | CO2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | hexane | 1.6M, 36 ml | CCCCCC | C6H14
solvent | water | 150 ml | O | H2O
product | 2-Methoxy-3-(4-methyl-1-piperazinyl)benzoic acid | COC1=C(C(=O)O)C=CC=C1N1CCN(CC1)C | C13H18N2O3
